US04868331
6-Amino-5,6,7,8-tetrahydro-naphth-1-yl-oxyacetic acid
20 mmol of methyl 6-acetylamino-5,6,7,8-tetrahydro-naphth-1-yl-oxyacetate are refluxed in 300 ml of 2N HCl for 24 hours. The product precipitates on cooling to 0° C.

reactant | methyl 6-acetylamino-5,6,7,8-tetrahydro-naphth-1-yl-oxyacetate | 20 mmol | C(C)(=O)NC1CC=2C=CC=C(C2CC1)OCC(=O)OC | C15H19NO4
solvent | HCl | 2N, 300 ml | Cl | ClH
product | 6-Amino-5,6,7,8-tetrahydro-naphth-1-yl-oxyacetic acid | NC1CC=2C=CC=C(C2CC1)OCC(=O)O | C12H15NO3
